US04618627
To a mixture obtained by adding 0.1 g of lithium aluminum hydride to 20 ml of ether was added 0.55 g of 1-(3,4-dibenzyloxyphenyl)-1-octen-3-one under ice-cooling and the mixture was stirred for one hour at room temperature. To the reaction mixture was gradually added 10 ml of an aqueous 10% hydrochloric acid solution and the ether layer was collected, washed with water, and concentrated under reduced pressure to provide a solid product. By washing the product with a mixture of ether and n-hexane (1:3), 0.4 g of 1-(3,4-dibenzyloxyphenyl)-4-methyl-1-octen-3-ol was obtained.

reactant | lithium aluminum hydride | 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(3,4-dibenzyloxyphenyl)-1-octen-3-one | 0.55 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=CC(CCCCC)=O | C28H30O3
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 20 ml | CCOCC | C4H10O
product | 1-(3,4-dibenzyloxyphenyl)-4-methyl-1-octen-3-ol | 0.4 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=CC(C(CCCC)C)O | C29H34O3
